US06852731B2
tert-Butyl 2-(4-bromophenyl)-2-hydroxyethyl(methyl)carbamate
As described for the preparation of tert-Butyl 2-hydroxy-2-(4-morpholin-4-ylphenyl)ethyl(methyl)carbamate (Preparations 87-88), 2,4′-dibromoacetophenone was converted to the title compound, isolated as a pale yellow solid.

reactant | tert-Butyl 2-hydroxy-2-(4-morpholin-4-ylphenyl)ethyl(methyl)carbamate | OC(CN(C(OC(C)(C)C)=O)C)C1=CC=C(C=C1)N1CCOCC1 | C18H28N2O4
reactant | 2,4′-dibromoacetophenone | BrCC(=O)C1=CC=C(C=C1)Br | C8H6Br2O
product | tert-Butyl 2-(4-bromophenyl)-2-hydroxyethyl(methyl)carbamate | BrC1=CC=C(C=C1)C(CN(C(OC(C)(C)C)=O)C)O | C14H20BrNO3
